US06613790B2
Preparation of N,N-bis(2-hydroxyethyl)-4-[5-(4-methylphenyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]benzenesulfonamide
To a solution of methyl N-(2-methoxy-2-oxoethyl)-N-({4-[5-(4-methylphenyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}sulfonyl)glycinate prepared as in example 2.A. (0.330 g, 0.628 mmol) in anhydrous methanol (50 mL), was added NaBH4 (0.4 g, 10.6 mmol) and the mixture was allowed to stand at room temperature for 2 hours. Additional NaBH4 (0.4 g, 10.6 mmol) was then added and after 1 hour, the solvent was removed in vacuo. The residue was dissolved in water (100 mL), saturated with NaCl and the pH was adjusted to 2 with 1N HCl. The solution was extracted with ethyl acetate (200 mL). The organic solution was washed with sat. NaCl (50 mL), dried over MgSO4, filtered and concentrated under vacuum to afford 0.285 g (97% yield) of the product as a white powder: mp, 79.1° C.; 1H NMR (dmso-d6/300 MHz) δ 7.87 (d, 2H, J=8.7 Hz), 7.54 (d, 2H, J=8.7 Hz), 7.23-7.16 (m, 5H), 4.81 (exchangeable with D2O, t, 2H, J=5.4 Hz), 3.52-3.46 (m, 4H), 3.20 (t, 4H, J=6.0 Hz), 2.30 (s, 3H); HRMS (M+H)+ calcd. for C21H23F3N3O4S: 470.1361; found 470.1330.

reactant | methyl N-(2-methoxy-2-oxoethyl)-N-({4-[5-(4-methylphenyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}sulfonyl)glycinate | COC(CN(CC(=O)OC)S(=O)(=O)C1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)C)C(F)(F)F)=O | C23H22F3N3O6S
reactant | NaBH4 | 10.6 mmol, 0.4 g | [BH4-].[Na+]
reactant | NaBH4 | 10.6 mmol, 0.4 g | [BH4-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | N,N-bis(2-hydroxyethyl)-4-[5-(4-methylphenyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]benzenesulfonamide | 0.285 g, 97% yield | OCCN(S(=O)(=O)C1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)C)C(F)(F)F)CCO | C21H22F3N3O4S
